US06245796B1
A 0.40 g of 6-hydroxy-7-aminoindazole was mixed with 10 ml of ethyl orthoformate and heated under reflux for 2 hours. After cooling of the reaction solution, the solvent was evaporated under a reduced pressure and the residue was purified by a silica gel column chromatography to give 0.31 g of 1H-pyrazolo[3,4-e]benzoxazole.

reactant | 6-hydroxy-7-aminoindazole | 0.40 g | OC1=CC=C2C=NNC2=C1N | C7H7N3O
reactant | ethyl orthoformate | 10 ml | C(OCC)([O-])[O-]
product | 1H-pyrazolo[3,4-e]benzoxazole | 0.31 g | N1N=CC=2C=CC3=C(N=CO3)C21 | C8H5N3O
